US05641788
Oily sodium hydride (60%, 0.372 g) was added to a solution of 1H-1,2,4-triazole (0.594 g) in N,N-dimethylformamide (30 ml), and the mixture was stirred at room temperature for 15 minutes. Then, 3-acetyl-2-bromomethyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinoline (3.3 g) was added, and the mixture was stirred at 80° C. for 40 minutes. The reaction mixture was poured into water, and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried over magnesium sulfate, and the solvent was evaporated. The residue was subjected to column chromatography on silica gel. The fractions eluted with chloroform gave 3-acetyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxy-2-(1,2,4-triazol-1-ylmethyl)quinoline (1.4 g, 42%). This compound was recrystallized from ethanol to give colorless prisms, mp. 180°-181° C.

reactant | sodium hydride | 0.372 g | [H-].[Na+]
reactant | 1H-1,2,4-triazole | 0.594 g | N1N=CN=C1 | C2H3N3
reactant | 3-acetyl-2-bromomethyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinoline | 3.3 g | C(C)(=O)C=1C(=NC2=CC(=C(C=C2C1C1=CC(=C(C=C1)OC)OC)OC)OC)CBr | C22H22BrNO5
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 3-acetyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxy-2-(1,2,4-triazol-1-ylmethyl)quinoline | 1.4 g, 42% | C(C)(=O)C=1C(=NC2=CC(=C(C=C2C1C1=CC(=C(C=C1)OC)OC)OC)OC)CN1N=CN=C1 | C24H24N4O5
